US08084569B2
3,5-dimethylglutarimidine is prepared from 2,4-dimethylglutaronitrile using the procedure of Example 2. One equivalent of 3,5-dimethyiglutarimidine is combined with Pd·C catalyst in a Hastelloy shaker tube to which liquid NH3 (59 eq.) is added. The mixture is heated at 200° C. for 45 h. The mixture is cooled to ambient temperature and the excess NH3 removed by N2 purge. The crude mixture is suspended in anhydrous MeOH, the catalyst is removed by syringe filtration, and the crude reaction mixture is concentrated in vacuo. 3,5-dimethylglutarimidine conversion is >90% to give 2,6-diamino-3,5-dimethylpyridine in at least 1% net yield.

reactant | 2,4-dimethylglutaronitrile | CC(C#N)CC(C#N)C | C7H10N2
reactant | NH3 | 59 eq. | N | H3N
product | 2,6-diamino-3,5-dimethylpyridine | NC1=NC(=C(C=C1C)C)N | C7H11N3
